US06787544B2
In 2.0 mL of water are suspended 0.65 mL of diethyl-2-oxomalonate and 0.5 g of 2-aminomalonamide. Under ice-cooling, 0.85 mL of 5 mol/mL sodium hydroxide is added thereto. The resulting solution is stirred for 40 minutes. Then, at ambient temperature, 2.55 mL of 5 mol/mL sodium hydroxide is added to the solution, which is then stirred for an additional 30 minutes. Ethanol is added to the reaction mixture and the precipitate is collected by filtration to obtain 0.24 g of 3,5-dihydroxy-6-ethoxycarbonyl-2-pyrazinecarboxamide.

reactant | diethyl-2-oxomalonate | 0.65 mL | C(C)OC(C(C(=O)OCC)=O)=O | C7H10O5
reactant | 2-aminomalonamide | 0.5 g | NC(C(=O)N)C(=O)N | C3H7N3O2
reactant | sodium hydroxide | 5 mol/mL, 0.85 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 mol/mL, 2.55 mL | [OH-].[Na+]
reactant | Ethanol | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | 3,5-dihydroxy-6-ethoxycarbonyl-2-pyrazinecarboxamide | 0.24 g | OC=1C(=NC(=C(N1)O)C(=O)OCC)C(=O)N | C8H9N3O5
